US05073550
37 mg of 2-amino-4-thiazoleglyoxylic acid (Z)-O-[[(3,4-dihydroxyphenyl)-sulphonyl]methyl] oxime were reacted with 47 mg of (6R,7R)-7-amino-3-[[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-as-triazin-3-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid according to the procedure described in Example 5. The product fractions obtained upon chromatography on MCI gel according to the method described in Example 1 were concentrated and the pH of solution thus obtained was adjusted to 7 with dilute sodium hydroxide solution. By lyophilization, there was obtained (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-as-triazin-3-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid disodium salt as a pale yellow powder.

reactant | 2-amino-4-thiazoleglyoxylic acid (Z)-O-[[(3,4-dihydroxyphenyl)-sulphonyl]methyl] oxime | 37 mg | OC=1C=C(C=CC1O)S(=O)(=O)CO\N=C(/C(=O)O)\C=1N=C(SC1)N | C12H11N3O7S2
reactant | (6R,7R)-7-amino-3-[[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-as-triazin-3-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 47 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC=1N(N=C(C(N1)=O)O)C | C12H13N5O5S2
reactant | sodium hydroxide | [OH-].[Na+]
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(2,5-dihydro-6-hydroxy-2-methyl-5-oxo-as-triazin-3-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid disodium salt | [Na+].[Na+].NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])CSC=1N(N=C(C(N1)=O)O)C)=N/OCS(=O)(=O)C1=CC(=C(C=C1)O)O.NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)[O-])CSC=1N(N=C(C(N1)=O)O)C)=N/OCS(=O)(=O)C1=CC(=C(C=C1)O)O | InChI=1S/2C24H22N8O11S4.2Na/c2*1-31-24(28-18(36)19(37)29-31)46-6-9-5-44-21-15(20(38)32(21)16(9)22(39)40)27-17(35)14(11-7-45-23(25)26-11)30-43-8-47(41,42)10-2-3-12(33)13(34)4-10;;/h2*2-4,7,15,21,33-34H,5-6,8H2,1H3,(H2,25,26)(H,27,35)(H,29,37)(H,39,40);;/q;;2*+1/p-2/b2*30-14-;;/t2*15-,21-;;/m11../s1
